US07465836B2
4-(Benzo[c][1,2]oxaborol-1(3H)-yl)benzonitrile (18)
This was prepared as per the procedure in Example 11, from 2-(4-cyanophenyl)-[1,3,2]-dioxaborolane and 1-bromo-2-((methoxymethoxy)methyl)-benzene to afford white crystalline product.

reactant | 2-(4-cyanophenyl)-[1,3,2]-dioxaborolane | C(#N)C1=CC=C(C=C1)B1OCCO1 | C9H8BNO2
reactant | 1-bromo-2-((methoxymethoxy)methyl)-benzene | BrC1=C(C=CC=C1)COCOC | C9H11BrO2
product | 4-(Benzo[c][1,2]oxaborol-1(3H)-yl)benzonitrile | B1(OCC2=C1C=CC=C2)C2=CC=C(C#N)C=C2 | C14H10BNO
